US08492582B2
Dioxane (5.0 mL) and a 4 mol/L aqueous solution of sodium hydroxide (0.31 mL) were added to the obtained methyl 2-(2-acetoxy-5-(pyridin-3-yl)benzamido)-4-(furan-3-yl)benzoate (0.11 g), followed by stirring at 50 to 55° C. for 1 hours. The reaction mixture was cooled to room temperature, and a 10% aqueous solution of citric acid (6 mL) was added thereto. The solid substance was collected by filtration to obtain 0.081 g of 4-(furan-3-yl)-2-(2-hydroxy-5-(pyridin-3-yl)benzamido)-benzoic acid as a yellow solid.

reactant | sodium hydroxide | 0.31 mL | [OH-].[Na+]
reactant | methyl 2-(2-acetoxy-5-(pyridin-3-yl)benzamido)-4-(furan-3-yl)benzoate | 0.11 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=COC=C2)C=C(C=C1)C=1C=NC=CC1 | C26H20N2O6
reactant | citric acid | 6 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | Dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | 4-(furan-3-yl)-2-(2-hydroxy-5-(pyridin-3-yl)benzamido)-benzoic acid | 0.081 g | O1C=C(C=C1)C1=CC(=C(C(=O)O)C=C1)NC(C1=C(C=CC(=C1)C=1C=NC=CC1)O)=O | C23H16N2O5
